US04476307
N-(3-Chlorophenyl)-alpha-chloroacetanilide
N-(3-Chlorophenyl)aniline (25.1 g, 0.123 mole) and chloroacetyl chloride (19.6 ml, 0.246 mole) were refluxed in toluene (100 ml) for 4 hours, then stripped of toluene and excess acid chloride in vacuo to yield an oil which crystallized on scratching. Recrystallization from ethanol/H2O gave purified title product, 32.6 g, m.p. 94°-96.5°.

reactant | N-(3-Chlorophenyl)aniline | 0.123 mole, 25.1 g | ClC=1C=C(C=CC1)NC1=CC=CC=C1 | C12H10ClN
reactant | chloroacetyl chloride | 0.246 mole, 19.6 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | N-(3-Chlorophenyl)-alpha-chloroacetanilide | ClC=1C=C(C=CC1)N(C1=CC=CC=C1)C(CCl)=O | C14H11Cl2NO
